US07893296B2
To a solution of 40.00 g (0.2245 mol) of methyl benzoylacetate in 400 ml of methanol, 70.30 g (1.115 mol) of ammonium formate was added and the mixture was refluxed for 18 hours. After completion of the reaction, the reaction mixture was cooled to room temperature, and the solvent was distilled away under reduced pressure. To the residue, 200 ml of ethyl acetate and 150 ml of water were added, and the mixture was stirred at room temperature for 30 minutes. Then, the organic layer was separated, and the aqueous layer was extracted with 100 ml of ethyl acetate. The organic layer and the extract were combined, washed with water and a brine successively and dried with sodium sulfate. The solvent was removed under reduced pressure, and the residue was then distilled to give the objective methyl 3-amino-3-phenylacrylate (32.44 g, a colorless oil). The yield was 81.6%.

reactant | methyl benzoylacetate | 0.2245 mol, 40.00 g | C(C1=CC=CC=C1)(=O)CC(=O)OC | C10H10O3
reactant | ammonium formate | 1.115 mol, 70.30 g | C(=O)[O-].[NH4+]
solvent | methanol | 400 ml | CO | CH4O
product | methyl 3-amino-3-phenylacrylate | yield was 81.6% | NC(=CC(=O)OC)C1=CC=CC=C1 | C10H11NO2
